US06320059B1
Preparation of N-(1-Chloro-2,2,2-trifluoroethyl)-4-chlorobenzamide
A mixture of N-(1-hydroxy-2,2,2-trifluoroethyl)-4-chlorobenzamide (2.53 g, 0.01 mol) in phosphorus oxychloride (2 mL) is treated with phosphorus trichloride (1.57 g, 0.012 mol), heated to and held at 80° C. for 30 minutes, and concentrated in vacuo to obtain a residue. The residue is dissolved in hot heptane, decanted from the waxy phosphorus products, and crystallized to give the title product as a white crystalline solid (2.43 g, 89.3% yield): mp 119.0-121.0° C.; IR (Nujol) 3266, 1668 cm−1; 1H NMR (CDCl3) δ 7.76 and 7.46 (AB with fine splitting, ArH), 6.86 (d, J=8.5 Hz, NH, moves to 10.24 in DMSO-d6), 6.55(m, CH); 19F NMR δ −77.7(d, J=5 Hz).

reactant | N-(1-hydroxy-2,2,2-trifluoroethyl)-4-chlorobenzamide | 0.01 mol, 2.53 g | OC(C(F)(F)F)NC(C1=CC=C(C=C1)Cl)=O | C9H7ClF3NO2
reactant | phosphorus trichloride | 0.012 mol, 1.57 g | P(Cl)(Cl)Cl | Cl3P
solvent | phosphorus oxychloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | heptane | CCCCCCC | C7H16
product | N-(1-Chloro-2,2,2-trifluoroethyl)-4-chlorobenzamide | 2.43 g, 89.3% yield | ClC(C(F)(F)F)NC(C1=CC=C(C=C1)Cl)=O | C9H6Cl2F3NO
